US08633175B2
A solution of 1-bromo-3-isocyanatobenzene (1.0 mL, 8.01 mmol) and [2,2-bis(methyloxy)ethyl]amine (0.86 mL, 8.01 mmol) in CH2Cl2 (15 mL) was stirred at room temperature for 16 hr. The solution was concentrated in vacuo and the residue taken up in a mixture of CH3CN (10 mL) and H2O (3 mL). TFA (3 mL) was added and the solution stirred at room temperature for 4 hr. The solution was concentrated in vacuo, the residue taken up in EtOAc then washed with satd NaHCO3, H2O, and brine. The organics were then dried over Na2SO4, concentrated in vacuo and the residue recrystallized from EtOAc to give 1-(3-bromophenyl)-1,3-dihydro-2H-imidazol-2-one as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 6.60 (d, J=3.0 Hz, 1H), 7.03 (d, J=3.0 Hz, 1H), 7.34-7.36 (m, 2H); 7.70-7.72 (m, 1H), 8.06 (s, 1H), 10.39 (br s, 1H).

reactant | 1-bromo-3-isocyanatobenzene | 8.01 mmol, 1.0 mL | BrC1=CC(=CC=C1)N=C=O | C7H4BrNO
reactant | [2,2-bis(methyloxy)ethyl]amine | 8.01 mmol, 0.86 mL | COC(CN)OC | C4H11NO2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-bromophenyl)-1,3-dihydro-2H-imidazol-2-one | BrC=1C=C(C=CC1)N1C(NC=C1)=O | C9H7BrN2O
